Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
___ hx DM, AF (not on warfarin or ASA) presents for blood 
stools. Pt is ___ speaking, history obtained with aid 
of his daughter who translates. The patient has had intermittent 
constipation for some time; he has had blood in his stools 
before, for which he was told he has hemorrhoids by a prior 
physician. 

He was in his usual state of health until about 2 weeks ago when 
he again noted fresh blood coating his stools. He does strain to 
stool, and feels lightheaded and dizzy when he stands up 
following a bowel movement. The stools themselves are small and 
hard. As this has gone on, he has become scared to stool because 
he fears the droplets of blood that will come. Last night, he 
had clots and dark stool in addition to the normal blood, so he 
came in for medical attention. 

In the ED, initial VS were: 97.3 89 ___ 100% RA 

ED physical exam was recorded as: +blood per rectal, suprapubic 
abd pain. 

ED labs were notable for: H/H 12.7/38.7 (2u down from last 
in-system values from ___. Otherwise normal. 

CXR showed (my read): no acute cardiopulmonary abnormality. 

EKG showed AF. EKGs done on the floor also showed AF, after 
discussion with the patient he discloses a history of AF per his 
PCP that he declines to make medicines for though he knows he 
might stroke.

Patient was given:
___ 05:42 IV Pantoprazole 40 mg 
___ 05:42 IVF 1000 mL NS 1000 mL 

Transfer VS were: 97.1 74 ___ 99% RA. 

When seen on the floor, patient gives the history as above and 
below. He additionally feels like he has a cough with inability 
to clear mucus. He additionally endorses suprapubic tenderness. 
He has low back pain. He feels the urge to stool, but has been 
holding back due to fear of blood (per daughter, blood loss is 
of high concern in their culture, so very scary for him). He's 
had a HA. Denies sinus congestion, chest pain, palpitations, 
other abdominal pain, other muscle or joint pain, skin changes, 
diarrhea, no change in weight or appetite, no night sweats, no 
pain with urination or burning. He reports having had a 
colonoscopy several years ago that was negative.
 

 
Past Medical History:
DM
AF
Constipation
Hemorrhoids 
 
Social History:
___
Family History:
Father passed from stomach cancer.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 97.9 113 / 77 82 20 99 RA 
Gen: Middle-aged, fatigued appearing male, pleasant but tired, 
coughing but conversing normally through his daughter
___, EOMI, PERRLA, anicteric sclera, conjunctiva normal 
color, clear OP, MMM
CV: Irregularly irregular, no r/g/m 
Chest: CTAB, no w/r/r
GI: +suprapubic tenderness, otherwise soft, ND +BS
MSK: No kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. No facial droop. Full strength all extremities. 

DISCHARGE PHYSICAL EXAM:
Vitals: 98.4 123 / 83 78 18 96 RA 
Gen: Middle-aged, pleasant but tired, NAD
___, EOMI, PERRLA, anicteric sclera, conjunctiva normal 
color, clear OP, MMM
CV: Irregularly irregular, no r/g/m 
Chest: CTAB, no w/r/r
GI: Soft NT ND +BS
MSK: No kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. No facial droop. Full strength all extremities. 
 
Pertinent Results:
ADMISSION LABS:
___ 01:18AM BLOOD WBC-6.5 RBC-4.21* Hgb-12.7* Hct-38.7* 
MCV-92 MCH-30.2 MCHC-32.8 RDW-12.3 RDWSD-40.9 Plt ___
___ 01:18AM BLOOD ___ PTT-33.2 ___
___ 01:18AM BLOOD ALT-13 AST-18 AlkPhos-53 TotBili-0.4
___ 01:18AM BLOOD Albumin-4.5

REPORTS:
___ CXR: IMPRESSION: No acute disease 

DISCHARGE LABS:
___ 07:14AM BLOOD WBC-4.9 RBC-4.53* Hgb-14.0 Hct-41.6 
MCV-92 MCH-30.9 MCHC-33.7 RDW-12.1 RDWSD-40.5 Plt ___
___ 07:14AM BLOOD Glucose-120* UreaN-7 Creat-0.8 Na-141 
K-4.2 Cl-105 HCO3-26 AnGap-14
___ 07:14AM BLOOD Calcium-9.0 Phos-3.6 Mg-2.___ hx DM, AF, constipation, hemorrhoids, p/w BRBPR & melena.

# BRBPR/Melena
# Hx Constipation
# Hx Hemorrhoids:
Stool visualized, not dark, not melenic. For his history of 
BRBRR, this was seen, small amount atop stool, HD and H/H stable 
through his stay. From history, patient has history of 
constipation and was previously told he has hemorrhoids; he is 
not on a bowel regimen. We discussed extensively via interpreter 
that he should have soft BMs so as not to abrade the hemorrhoids 
when straining and cause bleeding. If they continue to be 
symptomatic, he can see Colorectal Surgery. He should have f/u 
with Gastroenterology as well. 

# Cough: 
Clear pulmonary exam & CXR, likely viral illness. 

# Suprapubic Tenderness: 
Negative UA, resolved w/o intervention. 

# AFib:
Not on home rate control or anticoagulation per his cultural 
preferences. CHADS2 = 1, encouraged him to discuss ASA again 
with his PCP. 

# DM: 
Resume home medications on discharge. 

Greater than 30mins was spent on care coordination and 
counseling on the day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 850 mg PO QPM 
2. MetFORMIN (Glucophage) 1700 mg PO QHS 
3. Simvastatin 20 mg PO QPM 
4. Acarbose 50 mg PO TID 

 
Discharge Medications:
1.  Docusate Sodium 200 mg PO BID 
Goal is for two soft bowel movements daily. Stop if more 
frequent or having loose stools. 
RX *docusate sodium 100 mg 2 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
2.  Polyethylene Glycol 17 g PO DAILY 
Goal is for two soft bowel movements daily. Stop if more 
frequent or having loose stools. 
RX *polyethylene glycol 3350 17 gram/dose 1 powder(s) by mouth 
once a day Refills:*0 
3.  Senna 8.6 mg PO BID 
Goal is for two soft bowel movements daily. Stop if more 
frequent or having loose stools. 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*30 Tablet Refills:*0 
4.  Acarbose 50 mg PO TID  
5.  MetFORMIN (Glucophage) 850 mg PO QPM  
6.  MetFORMIN (Glucophage) 1700 mg PO QHS  
7.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hemorrhoid Bleeding
Constipation
Atrial Fibrillation
Diabetes
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr ___,

You were admitted for blood with your stools. You were 
clinically stable here, as were your blood counts. The blood in 
your stools is likely the result of hemorrhoids, worsened by 
constipation. Please take the bowel regimen as prescribed, and 
follow-up with your primary care physician. 

We wish you all the best, 
Your ___ Care Team
 
Followup Instructions:
___